US08710100B2
2-Ethoxy-2-(3-nitrophenyl)acetic acid (6.4 g, 28.4 mmol) was dissolved in absolute ethanol (500 ml), 5% palladium on carbon (wet) (1.5 g) added and the mixture hydrogenated at 60 psi overnight. The suspension was filtered through celite and the filtrate concentrated to give (±)-2-ethoxy-2-(3′-aminophenyl)-acetic acid (3.0 g, 15.3 mmol, 54%) as a brown solid.

reactant | 2-Ethoxy-2-(3-nitrophenyl)acetic acid | 28.4 mmol, 6.4 g | C(C)OC(C(=O)O)C1=CC(=CC=C1)[N+](=O)[O-] | C10H11NO5
solvent | ethanol | 500 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 1.5 g | [Pd] | Pd
product | (±)-2-ethoxy-2-(3′-aminophenyl)-acetic acid | 15.3 mmol, 3.0 g, 54% | C(C)OC(C(=O)O)C1=CC(=CC=C1)N | C10H13NO3
